* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* CDL Netlist:                                              *
*                                                           *
* Cell Name  : OAI21X1                                      *
* Netlisted  : Tue Dec 21 07:13:40 2021                     *
* PVS Version: 16.15-s010 Fri Jun 28 22:24:07 PDT 2019      *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
*.LDD
*.DEVTMPLT 0 MN(nmos3) _nmos1v _soi_nd(D) poly_conn(G) _soi_nsb(S) _soi_nsb(B)
*.DEVTMPLT 1 MP(pmos3) _pmos1v _soi_pd(D) poly_conn(G) _soi_psb(S) _soi_psb(B)

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: M1_PO_CDNS_1                                    *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt M1_PO_CDNS_1 1
** N=1 EP=1 FDC=0
.ends M1_PO_CDNS_1

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: nmos3_CDNS_2                                    *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt nmos3_CDNS_2 1 2 3 4
** N=4 EP=4 FDC=1
M0 3 4 2 2 nmos3 L=1e-06 W=4e-06 AD=1e-11 AS=0 PD=1.3e-05 PS=0 fw=4e-06 sa=2e-06 sb=2e-06 $X=7000 $Y=2000 $dt=0
.ends nmos3_CDNS_2

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: pmos3_CDNS_3                                    *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt pmos3_CDNS_3 1 2 3 4
** N=5 EP=4 FDC=1
M0 3 4 2 2 pmos3 L=1e-06 W=8e-06 AD=2e-11 AS=0 PD=2.1e-05 PS=0 fw=8e-06 sa=2e-06 sb=2e-06 $X=7000 $Y=2000 $dt=1
.ends pmos3_CDNS_3

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: OAI21X1                                         *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt OAI21X1 A0 A1 B0 VDD! VSS! Y
** N=9 EP=6 FDC=6
X0 A0 M1_PO_CDNS_1 $T=4000 44000 0 0 $X=2000 $Y=42000
X1 A1 M1_PO_CDNS_1 $T=20000 36000 0 0 $X=18000 $Y=34000
X2 B0 M1_PO_CDNS_1 $T=36000 28000 0 0 $X=34000 $Y=26000
X3 4 VSS! 6 A0 nmos3_CDNS_2 $T=0 4000 0 0 $X=0 $Y=4000
X4 4 VSS! 6 A1 nmos3_CDNS_2 $T=32000 4000 1 180 $X=16000 $Y=4000
X5 4 6 Y B0 nmos3_CDNS_2 $T=48000 4000 1 180 $X=32000 $Y=4000
X6 4 VDD! 9 A0 pmos3_CDNS_3 $T=16000 68000 0 180 $X=0 $Y=46000
X7 4 9 Y A1 pmos3_CDNS_3 $T=32000 68000 0 180 $X=16000 $Y=46000
X8 4 VDD! Y B0 pmos3_CDNS_3 $T=32000 68000 1 0 $X=32000 $Y=46000
.ends OAI21X1
